US06576631B1
N-(4,6-Dimethoxy-[1,3,5]triazin-2-yl)-4-methyl-2-nitroaniline (Compound Number 2-56)
N-formyl-4-methyl-2-nitroaniline (7.2 g) was dissolved in tetrahydrofuran (50 ml), and sodium hydride (60% purity, oily) (2.0 g) was added thereto at room temperature. After stirring for 10 minutes, 2-chloro-4,6-dimethoxy-[1,3,5]triazine (7.0 g) was added at room temperature, followed by stirring for 3 hours. A 10% aqueous sodium hydroxide solution was added thereto, and the crystals were collected by filtration, washed with water and dried to obtain 10.0 g of the desired product as a yellow powder (m.p. 189-191° C.).

reactant | N-formyl-4-methyl-2-nitroaniline | 7.2 g | C(=O)NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C8H8N2O3
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | 2-chloro-4,6-dimethoxy-[1,3,5]triazine | 7.0 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(4,6-Dimethoxy-[1,3,5]triazin-2-yl)-4-methyl-2-nitroaniline | 10.0 g | COC1=NC(=NC(=N1)OC)NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C12H13N5O4
